US07943654B2
3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic Acid 1-ethyl Ester
To a solution of 5.380 g of 3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic acid 5-tert-butyl ester 1-ethyl ester in 25 mL of dichloromethane TFA (25 mL) is slowly added at room temperature. After stirring for 1 hour the reaction mixture is dried up. The colourless solid is taken up with ethyl ether and filtered affording 4.052 g (86%) of the titled compound.

reactant | 3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic acid 5-tert-butyl ester 1-ethyl ester | 5.380 g | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)OC(C)(C)C)NC(C2=C(C=CC=C2)[N+](=O)[O-])=O | C20H20N4O7S
solvent | dichloromethane TFA | 25 mL | OC(=O)C(F)(F)F.ClCCl
product | 3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic Acid 1-ethyl Ester | 4.052 g, 86% | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)O)NC(C2=C(C=CC=C2)[N+](=O)[O-])=O | C16H12N4O7S
